### PR TITLE
feat: HashMap.toList_map_fst

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds the lemma `toList_map_fst : m.toList.map Sigma.fst = m.keys` for `m` a (raw or standard) `DHashMap`, and the same theorem but with `Prod.fst` for (raw or standard) `HashMap`.

### CODE REVIEW

**Comment by jt0202** [comment]
From my understanding you would have to do the following based on what is written in Internal.Defs
>     * `toList_map_fst` in `DHashMap/Internal/RawLemmas` should presumable be using `simp_to_model`, but I don't understand how to make that work

`simp_to_model` needs to know how `m.1.keys` and `m.1.toList` look on lists like `length_keys_eq_length_keys` in Internal.WF.
Probably like: `m.keys = List.Keys (toListModel m)`and `m.toList = toListModel m`
After proving that you would need to add them to `queryNames` in Internal.Raw and add `(h: m.1.WF)` to your theorem. Then you should be able to use `simp_to_model`.

>     * `toList_inner` in `HashMap/RawLemmas` and `HashMap/Lemmas` is brute force. How can I avoid proving this twice? How am I meant to structure this?

You have to prove the result for `toList` and `const.toList` in Raw0 and afterwards you use these results directly in all other classes.

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 1]
```diff
@@ -135,6 +142,15 @@ theorem pairwise_keys_iff_pairwise_keys [BEq α] [PartialEquivBEq α] {m : Raw 
...
   keys_perm_keys_toListModel.pairwise_iff BEq.symm_false
 
+theorem Const.toList_eq_toListModel {β} {m : Raw α (fun _ => β)} :
+    Raw.Const.toList m = Const.toListModel m.buckets := by
+  simp only [Raw.Const.toList, Const.toListModel, ← Raw.toList_eq_toListModel, Raw.toList,
+    Raw.foldRev, Raw.foldRevM, Array.id_run_foldrM, AssocList.foldrM_id]
+  rw [← Array.foldr_hom (List.map _) _ (g₂ := fun l acc => foldr (fun p d => (p.fst, p.snd) :: d) acc l.toList)]
+  · simp
+  · intro l acc
+    induction l <;> simp_all
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Internal/WF.lean:152]: This is still ugly, but I think this argument needs to happen *somewhere*, since we have to different `toList` functions (one the double fold consing a `Prod`, the other the double fold consing a `Sigma`).

**Comment by kim-em** [comment]
@jt0202, thanks for your explanation. Along with some advice from Markus I think I understand better. Would you mind taking a look at this version?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -832,13 +833,19 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  rw [List.containsKey_eq_keys_contains, List.elem_iff]
 
 theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
     m.1.keys.Pairwise (fun a b => (a == b) = false) := by
   simp_to_model using (Raw.WF.out h).distinct.distinct
 
+@[simp]
+theorem toList_map_fst {α β} (m : Raw₀ α β) :
+    m.1.toList.map Sigma.fst = m.1.keys := by
+  simp_to_model
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:846]:
```suggestion
  simp_to_model using (Eq.symm List.keys_eq_map_fst)
```
Or prove the lemma in the other direction.

File: src/Std/Data/DHashMap/Internal/WF.lean (hunk 1 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/WF.lean:152]: I also dont know any better way of doing it. It is similar for us in #6211 with `insertMany` and `Const.insertMany`

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/WF.lean:152]: Oops, I got confused by the various PRs and added a the relevant comment [here](https://github.com/leanprover/lean4/pull/6304#discussion_r1869478960). As mentioned there, I think having this lemma is good but I would drop the `Const.toListModel` function. You can also optimize the proof using the existing lemmas above:

```lean
theorem foldRev_cons_pair {β} {l : Raw α (fun _ => β)} {acc : List (α × β)} :
    l.foldRev (fun acc k v => (k, v) :: acc) acc =
      (toListModel l.buckets).map (fun ⟨k, v⟩ => (k, v)) ++ acc := by
  simp [foldRev_cons_apply]

theorem Const.toList_eq_toListModel {β} {m : Raw α (fun _ => β)} :
    Raw.Const.toList m = (toListModel m.buckets).map (fun ⟨k, v⟩ => (k, v)) := by
  rw [Raw.Const.toList, foldRev_cons_pair, append_nil]
```
